US06919331B2
The procedure for the preparation of [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester was followed starting from 3-cyclopropyl-1H-quinazoline-2,4-dione (309 mg, 1.53 mmol) and 2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid methyl ester; HCl salt (506 mg, 1.53 mmol). At the end of the reaction a precipitate had formed. The mixture was diluted with water, and the solid collected by filtration. After washing with water and diethyl ether and drying in vacuo, 2-(3-Cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid methyl ester (634 mg, 90%) was obtained as a white solid:

reactant | [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCC(C)C)C=C1)=O | C30H37N5O4
reactant | 3-cyclopropyl-1H-quinazoline-2,4-dione | 1.53 mmol, 309 mg | C1(CC1)N1C(NC2=CC=CC=C2C1=O)=O | C11H10N2O2
reactant | 2-chloromethyl-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(N(C(=N2)CCl)CCC(C)C)C=C1 | C15H19ClN2O2
reactant | HCl | 1.53 mmol, 506 mg | Cl | ClH
solvent | water | O | H2O
product | 2-(3-Cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | 634 mg, 90% | COC(=O)C1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCC(C)C)C=C1 | C26H28N4O4
